US08378104B2
Intermediate 39: 1-[2-(methylsulfonyl)ethyl]-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine
A solution of 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine (500 mg, 1.80 mmol), (methylsulfonyl)ethene (212 mg, 1.99 mmol), and DIPEA (500 mL, 2.87 mmol) in DMF (6 mL) was stirred at 25° C. for 30 min. The reaction mixture was then concentrated in vacuo to a solid and then purified by flash chromatography (0 to 5% MeOH:EtOAc) to yield 74.5 mg (11%) of the title compound. 1H NMR (400 MHz, DMSO-d6): δ 7.98 (s, 1H), 7.59 (s, 1H), 4.17 (tt, J=10.36, 5.05 Hz, 1H), 3.30 (s, 2H), 3.05 (s, 3H), 2.98 (d, J=11.62 Hz, 2H), 2.74 (t, J=6.57 Hz, 2H), 2.13 (td, J=11.37, 3.28 Hz, 2H), 1.88-2.00 (m, 4H), 1.25 (s, 12H).

reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 1.80 mmol, 500 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCNCC1)C | C14H24BN3O2
reactant | (methylsulfonyl)ethene | 1.99 mmol, 212 mg | CS(=O)(=O)C=C | C3H6O2S
reactant | DIPEA | 2.87 mmol, 500 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-[2-(methylsulfonyl)ethyl]-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 74.5 mg, 11% | CS(=O)(=O)CCN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H30BN3O4S
